US05753666
1-Ethyl-1,4-dihydro-7-methyl-N-(2-(4-pyridyl)ethyl)-1,8-napthyridin-4-one-3-carboxamide
Nalidixic acid (0.45 g) and dichloromethane (20 ml) were combined and cooled to 0° C. under nitrogen. Triethylamine (0.3 ml) was then added, followed by isopropenylchloro-formate (0.24 ml) and the whole stirred for 90 minutes. 4-(2-Aminoethyl)pyridine (0.26 ml) was then added and stirring continued for 20 h, after which time the reaction was concentrated onto silica and purified by flash chromatography to give the title compound as an off white solid.

reactant | Nalidixic acid | 0.45 g | CCN1C=C(C(=O)C2=C1N=C(C=C2)C)C(=O)O | C12H12N2O3
reactant | dichloromethane | 20 ml | ClCCl | CH2Cl2
reactant | isopropenylchloro-formate | 0.24 ml | C(=C)(C)OC(=O)Cl | C4H5ClO2
reactant | 4-(2-Aminoethyl)pyridine | 0.26 ml | NCCC1=CC=NC=C1 | C7H10N2
solvent | Triethylamine | 0.3 ml | C(C)N(CC)CC | C6H15N
product | 1-Ethyl-1,4-dihydro-7-methyl-N-(2-(4-pyridyl)ethyl)-1,8-napthyridin-4-one-3-carboxamide | C(C)N1C=C(C(C2=CC=C(N=C12)C)=O)C(=O)NCCC1=CC=NC=C1 | C19H20N4O2
